US06900215B2
Fluoroacetone (5.00 g, 65.7 mmol) was converted to 4,4-diethoxy-1-fluorobutan-2-one as described in Example 3 and condensed with 2-aminoimidazole hemisulfate as described in Example 2 to give 7-fluoromethylimidazo[1,2-α]pyrimidine (2.84 g, 29%) as a white solid: δH (360 MHz, CDCl3) 5.53 (2H, d, J 47), 7.11 (1H, dd, J 7 and 1), 7.57 (1H, d, J 1), 7.82 (1H, d, J 1), 8.50 (1H, d, J 7).

reactant | Fluoroacetone | 65.7 mmol, 5.00 g | FCC(C)=O | C3H5FO
reactant | 4,4-diethoxy-1-fluorobutan-2-one | C(C)OC(CC(CF)=O)OCC | C8H15FO3
reactant | 2-aminoimidazole hemisulfate | S(=O)(=O)(O)O.NC=1NC=CN1.NC=1NC=CN1
product | 7-fluoromethylimidazo[1,2-α]pyrimidine | 2.84 g, 29% | FCC1=NC=2N(C=C1)C=CN2 | C7H6FN3
